US04284631
A solution of ethyl 2-benzyloxyimino-4-chloro-3-oxobutyrate (syn isomer, 51.4 g.), thiourea (17.5 g.) and sodium acetate (31.3 g.) in a mixture of water (130 ml.) and ethanol (130 ml.) was stirred at 40° to 45° C. for 2.5 hours. The resultant solution was adjusted to pH 6.5 with aqueous sodium bicarbonate and the precipitates were collected by filtration and washed with diisopropyl ether to give ethyl 2-(2-aminothiazol-4-yl)-2-benzyloxyiminoacetate (syn isomer, 39.78 g.).

reactant | ethyl 2-benzyloxyimino-4-chloro-3-oxobutyrate | 51.4 g | C(C1=CC=CC=C1)ON=C(C(=O)OCC)C(CCl)=O | C13H14ClNO4
reactant | thiourea | 17.5 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 31.3 g | C(C)(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 130 ml | O | H2O
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | ethyl 2-(2-aminothiazol-4-yl)-2-benzyloxyiminoacetate | 39.78 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCC1=CC=CC=C1 | C14H15N3O3S
